US07915268B2
tert-Butyl 2-amino-4-fluorophenylcarbamate.
To a solution of tert-butyl 4-fluoro-2-nitrophenylcarbamate (0.34 g) in THF (30 mL) was added a premixed solution of sodium hydrosulfite (2 g) and sodium bicarbonate (1 g) in water (50 mL). MeOH (10 mL) was also added to aid solution of the mixture, which was stirred at room temperature for 30 min, when sodium chloride was added to saturate the solution. The resulting mixture was extracted with EtOAc (2×). The combined organics were dried, filtered and evaporated to yield the titled compound (quant) that was used as such for the next step. 1H-NMR (300 MHz, CDCl3) δ 7.5 (dd, 1H), 6.6 (dd, 1H), 6.5 (m, 1H), 6.4 (br 1H), 4.7 (br 2H), 1.5 (s, 9H) ppm; MH+=227 (minor), 127 (-BOC), 171 (-tBu).

reactant | tert-butyl 4-fluoro-2-nitrophenylcarbamate | 0.34 g | FC1=CC(=C(C=C1)NC(OC(C)(C)C)=O)[N+](=O)[O-] | C11H13FN2O4
reactant | sodium hydrosulfite | 2 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium bicarbonate | 1 g | C([O-])(O)=O.[Na+]
reactant | sodium chloride | [Cl-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | water | 50 mL | O | H2O
solvent | MeOH | 10 mL | CO | CH4O
product | tert-Butyl 2-amino-4-fluorophenylcarbamate | NC1=C(C=CC(=C1)F)NC(OC(C)(C)C)=O | C11H15FN2O2
